US09290496B2
Step 4: Preparation of 2-((3R,4R)-3-amino-4-fluoropyrrolidin-1-yl)-9-isopropyl-N -(1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine
A mixture of benzyl ((3R,4R)-4-fluoro-1-(9-isopropyl-6-((1-methyl-1H-pyrazol-4-yl)amino)-9H-purin-2-yl)pyrrolidin-3-yl)carbamate (390 mg, 0.8 mmol), ammonium formate (514 mg, 8 mmol) in ethanol (20 mL) was degassed for 3 min and 10%-Pd/C (50 mg) was then added. The reaction was stirred and heated to gentle reflux for 45 min. The catalyst was removed by filtration and washed well with ethanol (40 mL). The combined liquors were concentrated to give a residue, which was taken into water (5 mL) and extracted with DCM-isopropanol (9:1, 2×70 mL). The combined organic extracts were washed with saturated NaHCO3 (5 mL), dried over Na2SO4 and evaporated to give the title compound as a light yellow solid (272 mg, 96% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.58 (s, 1 H) 8.00 (s, 2 H) 7.90 (s, 2 H) 7.73 (s, 1 H) 4.89-5.08 (m, 1 H) 4.56-4.66 (m, 1 H) 3.86-4.00 (m, 1 H) 3.81-3.85 (m, 3 H) 3.58-3.80 (m, 3 H) 3.53 (d, J=11.13 Hz, 1 H) 1.51 (d, J=6.72 Hz, 6 H). 19F NMR (376 MHz, DMSO-d6) δ ppm −177.42 (s, 1F). m/z (APCI+) for C16H22FN9 360.2 (M+H)+. Chiral purity was determined as below (using racemic sample to compare):

reactant | benzyl ((3R,4R)-4-fluoro-1-(9-isopropyl-6-((1-methyl-1H-pyrazol-4-yl)amino)-9H-purin-2-yl)pyrrolidin-3-yl)carbamate | 0.8 mmol, 390 mg | F[C@H]1[C@@H](CN(C1)C1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C)NC(OCC1=CC=CC=C1)=O | C24H28FN9O2
reactant | ammonium formate | 8 mmol, 514 mg | C(=O)[O-].[NH4+]
reactant | water | 5 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-((3R,4R)-3-amino-4-fluoropyrrolidin-1-yl)-9-isopropyl-N -(1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine | 272 mg, 96% yield | N[C@@H]1CN(C[C@H]1F)C1=NC(=C2N=CN(C2=N1)C(C)C)NC=1C=NN(C1)C | C16H22FN9
